US07098333B2
2,4-Dichloro-7-(2-trimethylsilylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine
A solution of 2,4-dichloro-1H-pyrrolo[2,3-d]pyrimidine (542 mg, 2.58 mmol) in MeCN (20 mL) was treated with NaH (113 mg, 2.84 mmol), stirred for 1 h, treated with trimethylsilylethyl chloride (502 μL, 2.84 mmol), stirred at room temperature for 3 h, poured into water, extracted with EtOAc, dried (MgSO4) and concentrated in vacuo to give the title compound (913 mg, 104%) which was used crude in the next reaction.

reactant | 2,4-dichloro-1H-pyrrolo[2,3-d]pyrimidine | 2.58 mmol, 542 mg | ClC1=NC(=C2C(N1)=NC=C2)Cl | C6H3Cl2N3
reactant | NaH | 2.84 mmol, 113 mg | [H-].[Na+]
reactant | trimethylsilylethyl chloride | 2.84 mmol, 502 μL | C[Si](C)(C)CCCl | C5H13ClSi
reactant | water | O | H2O
reactant | MeCN | 20 mL | CC#N | C2H3N
product | 2,4-Dichloro-7-(2-trimethylsilylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | 913 mg, 104% | ClC=1N=C(C2=C(N1)N(C=C2)COCC[Si](C)(C)C)Cl | C12H17Cl2N3OSi
